US05389633
Production of 6-(2,2-dimethyl-5-sulfamoyl-1-pentyloxy)-7-methyl[1,2,4]triazolo[1,5-b]pyridazine
Using 5-hydroxy-4,4-dimethyl-1-pentanesulfonamide and 6-chloro-7-methyl[1,2,4]triazolo[1,5-b]pyridazine, the same reaction was conducted as in Example 5 to produce the title compound. m.p. 171°-172° C.

reactant | 5-hydroxy-4,4-dimethyl-1-pentanesulfonamide | OCC(CCCS(=O)(=O)N)(C)C | C7H17NO3S
reactant | 6-chloro-7-methyl[1,2,4]triazolo[1,5-b]pyridazine | ClC=1C(=CC=2N(N1)N=CN2)C | C6H5ClN4
product | 6-(2,2-dimethyl-5-sulfamoyl-1-pentyloxy)-7-methyl[1,2,4]triazolo[1,5-b]pyridazine | CC(COC=1C(=CC=2N(N1)N=CN2)C)(CCCS(N)(=O)=O)C | C13H21N5O3S
